US07279600B2
4′-Hydroxy-3-methoxy-1,1′-biphenyl-4-carbaldehyde oxime
The title compound was prepared by reacting 4′-hydroxy-3-methoxy-1,1′-biphenyl-4-carbaldehyde (225 mg, 0.986 mmol) with hydroxylamine hydrochloride (137 mg, 1.97 mmol) according to Method C to yield 210 mg (88%) of yellowish solid: mp 228-230° C.; 1H NMR (DMSO-d6): δ 3.91 (3H, s), 6.85 (2H, d, J=8.29 Hz), 7.18 (1H, d, J=8.08 Hz), 7.21 (1H, s), 7.56 (2H, d, J=8.59 Hz), 7.68 (1H, d, J=7.98 Hz), 8.28 (1H, s), 9.63 (1H, s), 11.19 (1H, s); MS (ESI) m/z 242 (M−H)−, 244 (M+H)+.

reactant | 4′-hydroxy-3-methoxy-1,1′-biphenyl-4-carbaldehyde | 0.986 mmol, 225 mg | OC1=CC=C(C=C1)C1=CC(=C(C=C1)C=O)OC | C14H12O3
reactant | hydroxylamine hydrochloride | 1.97 mmol, 137 mg | Cl.NO
product | 4′-Hydroxy-3-methoxy-1,1′-biphenyl-4-carbaldehyde oxime | OC1=CC=C(C=C1)C1=CC(=C(C=C1)C=NO)OC | C14H13NO3
